US07524845B2
To solution of 3-amino-4-methylpyridine (540.2 mg, 5.0 mmol, 1 equiv) in dichloromethane (20 mL) was added pyridine (0.8 mL, 10.0 mmol, 2 equiv) and acetic anhydride (0.57 mL, 6.0 mmol, 1.2 equiv). The resultant solution was stirred at room temperature for 16 h and concentrated in vacuo to provide a crude residue. The residue was diluted with dichloromethane (200 mL), and washed with saturated sodium bicarbonate aqueous solution (50 mL) and brine (50 mL). The organic layer was separated, dried over sodium sulfate, and concentrated in vacuo to yield 3-acetylamino-4-methylpyridine (400.2 mg) as yellow solid which was used without further purification.

reactant | 3-amino-4-methylpyridine | 5.0 mmol, 540.2 mg, 1 equiv | NC=1C=NC=CC1C | C6H8N2
reactant | pyridine | 10.0 mmol, 0.8 mL, 2 equiv | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 6.0 mmol, 0.57 mL, 1.2 equiv | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-acetylamino-4-methylpyridine | 400.2 mg | C(C)(=O)NC=1C=NC=CC1C | C8H10N2O
